US04064139
A mixture of 10.7 g. (0.065 mole) of methyl 2-ethylbenzoate, 12.5 g. (0.07 mole) of N-bromosuccinimide, 50 mg. of benzoyl peroxide, and 125 ml. of carbon tetrachloride is stirred at reflux until the reaction is complete in 2 hours. The precipitated succinimide is filtered from the cooled mixture and the filtrate is evaporated to dryness under reduced pressure leaving methyl 2-(1-bromoethyl)benzoate as the residual yellow oil in quantitative yield.

reactant | methyl 2-ethylbenzoate | 0.065 mole | C(C)C1=C(C(=O)OC)C=CC=C1 | C10H12O2
reactant | N-bromosuccinimide | 0.07 mole | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 2-(1-bromoethyl)benzoate | quantitative yield | BrC(C)C1=C(C(=O)OC)C=CC=C1 | C10H11BrO2
